US08207167B2
{3-[1-[tert-Butoxycarbonyl-(2-methoxy-ethyl)-amino]-2-(tert-butyl-dimethyl-silanyloxy)ethyl]-phenyl}-carbamic acid benzyl ester
{3-[2-(tert-Butyl-dimethyl-silanyloxy)-1-(2-methoxy-ethylamino)-ethyl]-phenyl}-carbamic acid benzyl ester (1 g) was dissolved in dry DCM (10 mL) and stirred under argon at 0° C. Triethylamine (0.4 g) and (BOC)2O (0.52 g) were added and the reaction mixture was stirred at room temperature for 2 days. The reaction was quenched by addition of water and the mixture extracted with DCM. The organic phase was separated, dried over Na2SO4 and concentrated to give a crude product which was purified by column chromatography to give the title compound (400 mg).

reactant | {3-[2-(tert-Butyl-dimethyl-silanyloxy)-1-(2-methoxy-ethylamino)-ethyl]-phenyl}-carbamic acid benzyl ester | 1 g | C(C1=CC=CC=C1)OC(NC1=CC(=CC=C1)C(CO[Si](C)(C)C(C)(C)C)NCCOC)=O | C25H38N2O4Si
reactant | Triethylamine | 0.4 g | C(C)N(CC)CC | C6H15N
reactant | (BOC)2O | 0.52 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | {3-[1-[tert-Butoxycarbonyl-(2-methoxy-ethyl)-amino]-2-(tert-butyl-dimethyl-silanyloxy)ethyl]-phenyl}-carbamic acid benzyl ester | 400 mg | C(C1=CC=CC=C1)OC(NC1=CC(=CC=C1)C(CO[Si](C)(C)C(C)(C)C)N(CCOC)C(=O)OC(C)(C)C)=O | C30H46N2O6Si
